US09212187B2
Synthesis of 1-methyl-6-{3-[(pyridin-3-ylmethyl)amino]propoxy}-1H-quinolin-2-one
3N-Hydrochloric acid(5 ml) was added to a ethanol solution(5 ml) of N-[3-(1-Methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-3-ylmethyl)benzamide(250.1 mg), and stirred for 60 hours while heated under reflux. The reaction mixture was cooled to room temperature. Water was added thereto, washed with ethyl acetate. A saturated sodium hydrogencarbonate aqueous solution was added to the aqueous layer, followed by extraction using dichloromethane. The organic layer was dried with anhydrous sodium sulfate, and condensed under reduced pressure to give the title compound(168 mg) as a colorless oil.

reactant | Hydrochloric acid | 5 ml | Cl | ClH
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | N-[3-(1-Methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-3-ylmethyl)benzamide | 250.1 mg | CN1C(C=CC2=CC(=CC=C12)OCCCN(C(C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C26H25N3O3
solvent | Water | O | H2O
product | 1-methyl-6-{3-[(pyridin-3-ylmethyl)amino]propoxy}-1H-quinolin-2-one | 168 mg | CN1C(C=CC2=CC(=CC=C12)OCCCNCC=1C=NC=CC1)=O | C19H21N3O2
